US04282212
1-(N-3-Nitrobenzoyl-carbamoyl)-2-cyanoaziridine.
A solution of 5.8 g. m-nitrobenzoyl isocyanate in 100 ml. toluene is added dropwise, while stirring, in the course of about 10 minutes to 2.04 g. 2-cyanoaziridine in 50 ml. anhydrous toluene. The reaction mixture is stirred for 30 minutes at ambient temperature and the precipitated solid product is filtered off with suction, washed with toluene and triturated with diethyl ether. There are thus obtained 4.8 g. white 1-(N-3-nitrobenzoyl-carbamoyl)-2-cyanoaziridine; m.p. 156°-158° C. (after drying for 1.5 hours in a vacuum at 70° C.).

reactant | m-nitrobenzoyl isocyanate | [N+](=O)([O-])C=1C=C(C(=O)N=C=O)C=CC1 | C8H4N2O4
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-3-Nitrobenzoyl-carbamoyl)-2-cyanoaziridine | [N+](=O)([O-])C=1C=C(C(=O)NC(=O)N2C(C2)C#N)C=CC1 | C11H8N4O4
